US08022222B2
Step C: Preparation of 4-(4-methoxybenzylthio)-5-bromopyridin-2-amine:
4-(4-methoxybenzylthio)pyridine-2-amine (2.4 g, 9.7 mmol) was dissolved in acetic acid (30 mL). Bromine (1M in AcOH, 9.8 ml, 9.8 mmol) was added dropwise at ambient temperature and the reaction stirred for 30-minutes. The solution was concentrated and the residue was neutralized with saturated NaHCO3 solution. The solution was extracted with EtOAc and the organic layer was dried and concentrated. The residue was purified by flash chromatography (70% EtOAc/hexanes) to obtain the desired product (1.71 g, 54% yield) as a yellow solid.

reactant | 4-(4-methoxybenzylthio)pyridine-2-amine | 9.7 mmol, 2.4 g | COC1=CC=C(CSC2=CC(=NC=C2)N)C=C1 | C13H14N2OS
reactant | Bromine | 9.8 mmol, 1M, 9.8 ml | BrBr | Br2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 4-(4-methoxybenzylthio)-5-bromopyridin-2-amine | 1.71 g, 54% yield | COC1=CC=C(CSC2=CC(=NC=C2Br)N)C=C1 | C13H13BrN2OS
